US05486604
The chemical coupling of 8-substituted AMP's to β-NMN to form 8-substituted NAD+ 's was performed by carbodiimide coupling essentially as described by Prescott and McLennan (Prescott, M. and McLennan, A. G. (1990) Anal. Biochem. 184, 330-337). 8-amino-AMP (0.1 μmol), β-NMN (1μmol) and MgCl2 (2 μmol) were combined in a microfuge tube and evaporated to dryness using a SpeedVac concentrator. The coupling reaction was initiated by adding 20 μl of 1.5M HEPES-NaOH, pH 6.8 and 20 μl of 1.5M 1-ethyl-3(3-dimethyl-amino-propyl)-carbodiimide-HCl (EDC) and incubated at 37° C. for 12 to 18 hours. The yield of 8-amino-NAD+ was between 40 and 50%. The reaction products were diluted to 1 ml with water and injected onto an AG MP 1 column (0.6×15 cm) which was eluted at a flow rate of 1 ml/min using a trifluoroacetic acid gradient from 1.5 to 150 mM over 30 minutes. The AG MP-1 purification system has been previously described (Lee, H. C. and Aarhus, R. (1991) Cell Regulation 2, 203-209, Axelson, J. T., Bodley, J. W., and Walseth, T. F. (1981) Anal. Biochem. 18, 333-364). The 8-amino-NAD+ peak was collected and evaporated to dryness on a SpeedVac concentrator. The coupling reactions using 8-Br-AMP and 8-azido-AMP were done identically, except that all manipulations with 8-azido-compounds were done in the dark or reduced light. 8-amino-NAD+ was converted to 8-amino cADPR using ADP-ribosyl cyclase purified from Aplysia ovotestis as previously described (Lee, H. C. and Aarhus, R. (1991) Cell Regulation 2, 203-209). The 8-amino-NAD+ was reconstituted with 1 ml of 25 mM HEPES-NaOH, pH 6.8 and incubated for 2 to 4 hours at room temperature with 45.4 units of ADP-ribosyl cyclase (1 unit is defined as the amount of enzyme that produces 1 nmol of cADPR from 1 mM NAD+ at room temperature and pH 6.8). The resulting 8-amino-cADPR was purified by AG MP-1 chromatography as described above. The purified 8-amino-cADPR was evaporated to dryness on a SpeedVac concentrator and stored at -20° C. The conversion of the 8-Br and 8-azido derivatives was identical to that described for 8-amino-NAD+. The ADP-ribosyl cyclase recognized each of the 8-substituted NAD+ derivatives and converted virtually all of the NAD+ derivatives to the corresponding cADPR derivatives.

reactant | carbodiimide | N=C=N | CH2N2
reactant | β-NMN | 1μmol | C1=CC(=C[N+](=C1)[C@H]2[C@@H]([C@@H]([C@H](O2)COP(=O)(O)[O-])O)O)C(=O)N | C11H15N2O8P
reactant | MgCl2 | 2 μmol | [Mg+2].[Cl-].[Cl-]
reactant | HEPES NaOH | 1.5M, 20 μl | C1CN(CCN1CCO)CCS(=O)(=O)O.[OH-].[Na+]
reactant | NAD+ | 1 mM | C1=CC(=C[N+](=C1)[C@H]2[C@@H]([C@@H]([C@H](O2)COP(=O)(O)OP(=O)(O)OC[C@@H]3[C@H]([C@H]([C@@H](O3)N4C=NC5=C4N=CN=C5N)O)O)O)O)C(=O)N
solvent | water | O | H2O
product | cADPR | 1 nmol | C1[C@@H]2[C@H]([C@H]([C@@H](O2)N3C=NC4=C3N=CN(C4=N)[C@H]5[C@@H]([C@@H]([C@H](O5)COP(=O)(OP(=O)(O1)O)O)O)O)O)O | C15H21N5O13P2
